US08283361B2
Methyl 2-(bis(tert-butoxycarbonyl)amino)-5-bromoisonicotinate
To a 5 L round bottom flask was charged methyl 2-amino-5-bromoisonicotinate (200 g, 866 mmol) and tert-butanol (3000 mL). The reaction mixture was kept at 30° C., then 4-dimethylaminopyridine (DMAP, 6.3 g, 52 mmol) and di-tert-butyl dicarbonate (566 g, 2.6 mol) were added, the resulting mixture was slowly heated to 60° C. for 2 h. The reaction mixture was concentrated under reduced pressure to one-fourth volume. A yellow needle-like solid precipitated which was collected by filtration and washed by ethanol. After drying under vacuum overnight at 25° C., the first crop was obtained as 282 g pale yellow needle-like solid.

reactant | methyl 2-amino-5-bromoisonicotinate | 866 mmol, 200 g | NC=1C=C(C(=O)OC)C(=CN1)Br | C7H7BrN2O2
reactant | di-tert-butyl dicarbonate | 2.6 mol, 566 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 52 mmol, 6.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tert-butanol | 3000 mL | C(C)(C)(C)O | C4H10O
product | Methyl 2-(bis(tert-butoxycarbonyl)amino)-5-bromoisonicotinate | 282 g | C(C)(C)(C)OC(=O)N(C=1C=C(C(=O)OC)C(=CN1)Br)C(=O)OC(C)(C)C | C17H23BrN2O6
